US07754757B2
In a similar manner to Example 8, (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (30.0 mg) and 2,6-dichlorobenzyl bromide (24.5 mg) were used to obtain (2S,4S)-1-[[N-[4-(2,6-dichlorobenzyl)oxycarbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (40.0 mg).

reactant | (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 30.0 mg | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
reactant | 2,6-dichlorobenzyl bromide | 24.5 mg | ClC1=C(CBr)C(=CC=C1)Cl | C7H5BrCl2
product | (2S,4S)-1-[[N-[4-(2,6-dichlorobenzyl)oxycarbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 40.0 mg | ClC1=C(COC(=O)C23CCC(CC2)(CC3)NCC(=O)N3[C@@H](C[C@@H](C3)F)C#N)C(=CC=C1)Cl | C23H26Cl2FN3O3
